US06686352B2
a) 10-Bromo-5,7-dihydro-2-[(4-methoxyphenyl)methyl]-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1, from 7-bromo-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and 2-(4-methoxyphenyl)-acetamidine hydrochloride. Yield: 99%. White solid, m/z (ISP) 410/412 (MH).

reactant | 7-bromo-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | BrC=1C=CC2=C(C(C(CC(N2)=O)=CN(C)C)=O)C1 | C13H13BrN2O2
reactant | 2-(4-methoxyphenyl)-acetamidine hydrochloride | Cl.COC1=CC=C(C=C1)CC(=N)N
product | 10-Bromo-5,7-dihydro-2-[(4-methoxyphenyl)methyl]-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 99% | BrC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)CC3=CC=C(C=C3)OC)C1 | C20H16BrN3O2
